US06498166B1
ii) 2-(5-Chloropyridin-2-yl)-1-(4-fluorophenyl)ethanone
Sodium hydride (Aldrich, 60% in oil, 13.03 g) was suspended in anhydrous THF (250 ml). 4-Fluoroacetophenone (15 g, 108.6 mmol) in anhydrous THF (100 ml) was added dropwise and the mixture heated to reflux for 1 h under nitrogen. The solution was cooled to 0° and 2,5 dichloropyridine (16.07 g) in anhydrous THF (75 ml) was added dropwise. The mixture was then heated to reflux overnight before being recooled to 0° and quenched with water dropwise (CAUTION! Hydrogen gas evolved, exothermic). The resulting reaction mixture was washed with brine and the organic phase dried and concentrated to give a mobile brown oil which was adsorbed onto silica gel and purified by Biotage chromatography with cyclohexane:ethyl acetate (40:1) as eluant. Combination and concentration of appropriate fractions gave the title compound as a yellow solid (2.31 g, 8.5%) which exists as a mixture of keto:enol forms, 1:2. NMR (CDCl3) δ 4.44 (2H, s, keto CH2); 6.0 (apparent 2H, s, enol CH═); 7.05-7.15 (10H, m); 7.26 (1H, d, J 9 Hz); 7.6-7.65 (apparent 3H, 2x dd, J 9 & 2 Hz); 7.8 (4H, dd, J 9 & 5 Hz); 8.35 (apparent 2H, J 3 Hz, N═CH); 8.52 (1H, J 3 Hz, N═CH) Tlc SiO2 cyclohexane:ethyl acetate (3:1) Rf 0.56 detection uv254.

reactant | Sodium hydride | 13.03 g | [H-].[Na+]
reactant | 4-Fluoroacetophenone | 108.6 mmol, 15 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | 2,5 dichloropyridine | 16.07 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-(5-Chloropyridin-2-yl)-1-(4-fluorophenyl)ethanone | 2.31 g, 8.5% | ClC=1C=CC(=NC1)CC(=O)C1=CC=C(C=C1)F | C13H9ClFNO
